US07304081B2
1′-[(1-{4-[(1-Methylcyclopropyl)methoxy]phenyl}cyclopropyl)-carbonyl]-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
1′-{[1-(4-Hydroxyphenyl)cyclopropyl]-carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (8.2 mg, 0.023 mmol), triethylamine (3.6 ul, 0.026 mmol), triphenylphosphine (15 mg, 0.056 mmol), and diisopropyl azodicarboxylate (11 ul, 0.056 mmol) were mixed in tetrahydrofuran (0.2 ml) at room temperature for 10 minutes. To the mixture, with stirring, was added (1-methylcyclopropyl)methanol (4.8 mg, 0.056 mmol). The resulting mixture then was stirred at room temperature overnight. The desired product was obtained from the mixture by prep-HPLC (5.8 mg, 59%). LCMS: m/z 419.1 (M+H)+.

reactant | 1′-{[1-(4-Hydroxyphenyl)cyclopropyl]-carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.023 mmol, 8.2 mg | OC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C20H18N2O4
reactant | triethylamine | 0.026 mmol, 3.6 ul | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.056 mmol, 15 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.056 mmol, 11 ul | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (1-methylcyclopropyl)methanol | 0.056 mmol, 4.8 mg | CC1(CC1)CO | C5H10O
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | 1′-[(1-{4-[(1-Methylcyclopropyl)methoxy]phenyl}cyclopropyl)-carbonyl]-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | CC1(CC1)COC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C25H26N2O4
